US08198456B2
To a stirred solution of crude 5-(3,5-dicyano-2,6-dimethyl-1,4-dihydro-pyridin-4-yl)-3-(2-hydroxy-ethylamino)-indazole-1-carboxylic acid tert-butyl ester (0.6 g), from Synthetic Example 22, in THF (14.3 mL), under Argon, was added sequentially triphenylphosphine (1.08 g, 4.13 mmol), phthalamide (0.21 g, 1.45 mmol), followed by diisopropyl azadicarboxylate (DIAD, 0.31 g, 1.52 mmol) dropwise over 30 minutes. The mixture was stirred overnight at room temperature. The mixture was quenched with saturated sodium hydrogencarbonate solution and extracted with EtOAc. The combined organic extracts were washed with brine, dried and concentrated. The residue was partially purified by chromatography on silica gel, followed by preparative reverse phase HPLC to give 5-(3,5-dicyano-2,6-dimethyl-1,4-dihydro-pyridin-4-yl)-3-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethylamino]-indazole-1-carboxylic acid tert-butyl ester (131 mg) which was used directly in the next step.

reactant | 5-(3,5-dicyano-2,6-dimethyl-1,4-dihydro-pyridin-4-yl)-3-(2-hydroxy-ethylamino)-indazole-1-carboxylic acid tert-butyl ester | 0.6 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)C1C(=C(NC(=C1C#N)C)C)C#N)NCCO | C23H26N6O3
reactant | triphenylphosphine | 4.13 mmol, 1.08 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalamide | 1.45 mmol, 0.21 g | C(C=1C(C(=O)N)=CC=CC1)(=O)N | C8H8N2O2
solvent | THF | 14.3 mL | C1CCOC1 | C4H8O
product | 5-(3,5-dicyano-2,6-dimethyl-1,4-dihydro-pyridin-4-yl)-3-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethylamino]-indazole-1-carboxylic acid tert-butyl ester | 131 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)C1C(=C(NC(=C1C#N)C)C)C#N)NCCN1C(C2=CC=CC=C2C1=O)=O | C31H29N7O4
